US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.34 g), N,N-dimethylformamide (15 mL), potassium carbonate (0.58 g) and acetic acid chlorodifluoromethyl ester (0.4 mL) was stirred at 70° C. for 16 hours. The mixture was diluted with water, extracted with ethyl acetate and the combined extracts were dried over sodium sulfate and then the solvent removed under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of cyclohexane and ethyl acetate (7:3 by volume) gave title compound, 0.37 g.

reactant | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.34 g | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O)=O | C21H19Cl2NO6S
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid chlorodifluoromethyl ester | 0.4 mL | ClC(F)(F)OC(C)=O | C3H3ClF2O2
solvent | water | O | H2O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)OC(F)F)=O | C22H19Cl2F2NO6S
